US07511048B2
2-Chloro-1-(3-fluoro-benzoyloxy)-4-nitro-benzene (10 g, 35.5 mmol) was suspended in 50 mL acetic acid and 150 mL EtOAc in a 500 mL flask. Iron (9.9 g (177.5 mmol) was added to this suspension, and the mixture stirred at rt overnight. The reaction mixture was filtered through a thin pad of Celite®. The filtrate was concentrated in vacuo and neutralized with saturated Na2CO3 aq solution, followed by EtOAc extraction. The organic layer was washed with brine, dried over Na2SO4, and concentrated in vacuo. The resulting crude material was purified by flash chromatography eluting with 15% EtOAc/hexanes yielding 3-chloro-4-(3-fluoro-benzyloxy)-phenylamine as a brown solid [8.5 g, 95%, TLC Rf=0.4, 30% EtOAc/HEX.(3:7)]. 1H-NMR (DMSO-d6) δ 4.94 (s, 2H), 5.00 (s, 2H), 6.40 (dd, 1H), 6.60 (s, 1H), 6.87 (d, 1H), 7.10-7.18 (m, 1H), 7.20-7.28 (m, 2H), 7.37-7.44 (m, 1H).

reactant | 2-Chloro-1-(3-fluoro-benzoyloxy)-4-nitro-benzene | 35.5 mmol, 10 g | ClC1=C(C=CC(=C1)[N+](=O)[O-])OC(C1=CC(=CC=C1)F)=O | C13H7ClFNO4
reactant | EtOAc | 150 mL | CCOC(=O)C | C4H8O2
solvent | acetic acid | 50 mL | C(C)(=O)O | C2H4O2
catalyst | Iron | [Fe] | Fe
product | 3-chloro-4-(3-fluoro-benzyloxy)-phenylamine | ClC=1C=C(C=CC1OCC1=CC(=CC=C1)F)N | C13H11ClFNO
